US08426448B2
Add 2-(6-trifluoromethyl-pyridin-2-yl)-propan-2-ol (44.4 g, 216 mmol) to acetonitrile (450 mL) and cool the mixture to 0° C. Add concentrated sulfuric acid (35 mL, 657 mmol) and maintain 10° C. or lower during the addition. Warm the mixture to 45° C. for 16.5 hours, then cool the mixture to 4° C. Add 1 N NaOH (1.3 L). Add t-butylmethyl ether (900 mL) and separate the layers. Extract the aqueous layer with t-butylmethyl ether (450 mL) and separate the layers. Combine the organic layers and extract with brine (450 mL), then separate the phases and add anhydrous sodium sulfate. Filter the suspension and concentrate the filtrate to dryness under reduced pressure to afford N-[1-methyl-1-(6-trifluoromethyl-pyridin-2-yl)-ethyl]-acetamide (43.9 g, 219 mmol, 82%). 1H NMR (400 MHz, DMSO d6) δ 8.26 (s, 1H), 7.95 (t, J=7.9 Hz, 1H), 7.63 (dd, J=7.7, 17.4 Hz, 2H), 1.82 (s, 3H), 1.51 (s, 6H). HRMS (ESI) m/z (M+H)1 calcd for C11H14F3N2O (M+H)+: 247.1053, found 247.1051.

reactant | 2-(6-trifluoromethyl-pyridin-2-yl)-propan-2-ol | 216 mmol, 44.4 g | FC(C1=CC=CC(=N1)C(C)(C)O)(F)F | C9H10F3NO
reactant | sulfuric acid | 657 mmol, 35 mL | S(O)(O)(=O)=O | H2O4S
reactant | NaOH | 1 N, 1.3 L | [OH-].[Na+]
reactant | acetonitrile | 450 mL | C(C)#N | C2H3N
product | N-[1-methyl-1-(6-trifluoromethyl-pyridin-2-yl)-ethyl]-acetamide | 219 mmol, 43.9 g, 82% | CC(C)(C1=NC(=CC=C1)C(F)(F)F)NC(C)=O | C11H13F3N2O
